US06992085B2
Step A: 1-(4-Bromobutyl)-5,7-dichloro-1H-indole
The procedure is as for Example 39 using as substrate 5,7-dichloro-1H-indole and 1,4-dibromobutane.

reactant | 5,7-dichloro-1H-indole | ClC=1C=C2C=CNC2=C(C1)Cl | C8H5Cl2N
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 1-(4-Bromobutyl)-5,7-dichloro-1H-indole | BrCCCCN1C=CC2=CC(=CC(=C12)Cl)Cl | C12H12BrCl2N
